US05424444
Another Preparation of N-Methyl-L-proline Methyl Ester
The L-proline is dissolved in methanol, the solution is cooled to 0° C. and 36% aqueous formaldehyde is added with stirring. To this solution is then added powdered NaBH4 in portions while maintaining the temperature between -5° and +5° C. The reaction is filtered, the filter cake extracted with solvent and combined with the filtrate, and the solvents evaporated to dryness. The residual N-methyl-L-proline is then dissolved in and reacted with methanol in the presence of H2SO4 at reflux for 4-24 hr. The reaction mixture is cooled to 0° C., and with vigorous stirring a solution of K2CO3 is slowly added to the mixture, until the pH is between pH 7 and 8, then the title product is extracted from the basic mixture and isolated after drying and removal of the solvent.

reactant | L-proline | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | formaldehyde | C=O | CH2O
reactant | NaBH4 | [BH4-].[Na+]
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | methanol | CO | CH4O
product | N-Methyl-L-proline Methyl Ester | COC([C@H]1N(CCC1)C)=O | C7H13NO2
